US07816371B2
c. N-(2-(2-Amino-2-oxoethyl)-1-oxo-1,2-dihydroisoquinolin-5-yl)-2-(4-chloro-3-(trifluoromethyl)phenyl)acetamide
A round bottom flask was charged with 2-(4-chloro-3-(trifluoromethyl)phenyl)acetic acid (170 mg, 0.00072 mol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (400 mg, 0.001 mol), N,N-diisopropylethylamine (0.2 mL, 0.001 mol), N,N-dimethylformamide (2 mL, 0.03 mol) and 2-(5-amino-1-oxoisoquinolin-2(1H)-yl)acetamide (120 mg, 0.00055 mol). The reaction was stirred for 16 h at room temperature and the solvent was removed and the residue purified by preparative HPLC (reverse phase) to yield the product as a white powder. MS m/z=437.8 (M+1). 1H NMR (400 MHz; DMSO-d6) δ 10.09 (s, 1H), 8.04 (d, J=8.07 Hz, 1H), 7.89 (bs, 1H), 7.83 (d, J=8.07 Hz, 1H), 7.73-7.70 (m, 2H), 7.63 (bs, 1H), 7.46 (t, J=8.0 Hz, 1H), 7.42 (d, J=7.76 Hz, 1H) 7.19 (bs, 1H), 6.64 (d, J=7.70 Hz, 1H), 4.56 (s, 2H), 3.92 (s, 2H).

reactant | 2-(4-chloro-3-(trifluoromethyl)phenyl)acetic acid | 0.00072 mol, 170 mg | ClC1=C(C=C(C=C1)CC(=O)O)C(F)(F)F | C9H6ClF3O2
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.001 mol, 400 mg | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 0.001 mol, 0.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylformamide | 0.03 mol, 2 mL | CN(C=O)C | C3H7NO
reactant | 2-(5-amino-1-oxoisoquinolin-2(1H)-yl)acetamide | 0.00055 mol, 120 mg | NC1=C2C=CN(C(C2=CC=C1)=O)CC(=O)N | C11H11N3O2
product | N-(2-(2-Amino-2-oxoethyl)-1-oxo-1,2-dihydroisoquinolin-5-yl)-2-(4-chloro-3-(trifluoromethyl)phenyl)acetamide | NC(CN1C(C2=CC=CC(=C2C=C1)NC(CC1=CC(=C(C=C1)Cl)C(F)(F)F)=O)=O)=O | C20H15ClF3N3O3
